US04966891
To a stirred solution of 5'-deoxy-5-fluorouridine (24.6 g) in dry pyridine (150 ml) was added dropwise 24.5 ml of benzoyl chloride over 10 minutes at 0° C. and the mixture was stirred for 5 hours at room temperature. After removal of pyridine under reduced pressure the residue was partitioned between water and ethyl acetate. The organic layer was washed with saturated sodium hydrogen carbonate solution and water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate - n-hexane to give 38.9 g of 2',3'-di-O-benzoyl-5'-deoxy-5-fluorouridine, MS 455 (MH+).

reactant | 5'-deoxy-5-fluorouridine | 24.6 g | FC=1C(NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](C)O2)C1)=O)=O | C9H11FN2O5
reactant | benzoyl chloride | 24.5 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 2',3'-di-O-benzoyl-5'-deoxy-5-fluorouridine | 38.9 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)C)N1C(=O)NC(=O)C(=C1)F | C23H19FN2O7
